US03973022
10 g of 2-(p-chlorophenyl)-α-methyl-6-quinolinemalonic acid are heated to 190°C for 20 minutes. The melt is cooled and dissolved in ethyl acetate, and the solution is extracted with 0.5 N sodium carbonate solution. The sodium carbonate extracts are adjusted to pH 5 and extracted with ethyl acetate. The ethyl acetate extracts, on evaporation and recrystallisation of the residue from ethyl acetate-petroleum ether, yield 2-(p-chlorphenyl)-α-methyl-6-quinolineacetic acid of melting point 188°-189°C.

reactant | 2-(p-chlorophenyl)-α-methyl-6-quinolinemalonic acid | 10 g | ClC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)C(C(=O)O)(C(=O)O)C | C19H14ClNO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorphenyl)-α-methyl-6-quinolineacetic acid | ClC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)C(C(=O)O)C | C18H14ClNO2
